### PR TITLE
[Merged by Bors] - feat(Combinatorics/Additive/Convolution): convolution map

### PR DESCRIPTION
**Pull request by strihanje01**
add convolution of finite subsets of a group

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by strihanje01** [comment]
@YaelDillies here's the pull request for convolution

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
...
+    #((x⁻¹ • A) ∩ B) = #{yz ∈ A ×ˢ B | yz.1 * yz.2⁻¹ = x} := by
+  simpa using card_smul_inter_smul _ _ x⁻¹ 1
+
+/-- Given finite subsets `A` and `B` of a group `G`, convolution of `A` and `B` is a map `G → ℕ`
+that maps `x ∈ G` to the number of distinct representations of `x` in the form `x = ab⁻¹`, where
+`a ∈ A`, `b ∈ B`. -/
+def convolution (A B : Finset G) : G → ℕ := fun x => #{ab ∈ A ×ˢ B | ab.1 * ab.2⁻¹ = x}
+
+lemma convolution_eq_card_smul_inter_smul (A B : Finset G) (x y : G) :
+    A.convolution B (x⁻¹ * y) = #((x • A) ∩ (y • B)) := Eq.symm <| card_smul_inter_smul ..
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: Let's try to make `convolution` be the simp normal form
```suggestion
@[simp]
lemma card_smul_inter_smul_eq_convolution (A B : Finset G) (x y : G) :
    #((x • A) ∩ (y • B)) = A.convolution B (x⁻¹ * y) := card_smul_inter_smul ..
```
Same below

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 2]
```diff
@@ -0,0 +1,96 @@
...
+    (by simp [Set.LeftInvOn])
+    (by simp +contextual [Set.LeftInvOn, mul_inv_eq_iff_eq_mul, mul_assoc])
+
+lemma card_inter_smul (A B : Finset G) (x : G) :
+    #(A ∩ (x • B)) = #{yz ∈ A ×ˢ B | yz.1 * yz.2⁻¹ = x} := by
+  simpa using card_smul_inter_smul _ _ 1 x
+
+lemma card_inv_smul_inter (A B : Finset G) (x : G) :
+    #((x⁻¹ • A) ∩ B) = #{yz ∈ A ×ˢ B | yz.1 * yz.2⁻¹ = x} := by
+  simpa using card_smul_inter_smul _ _ x⁻¹ 1
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: Can you drop these two lemmas in favour of the `convolution` version?

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 3]
```diff
@@ -0,0 +1,96 @@
...
+
+/-- Given finite subsets `A` and `B` of a group `G`, convolution of `A` and `B` is a map `G → ℕ`
+that maps `x ∈ G` to the number of distinct representations of `x` in the form `x = ab⁻¹`, where
+`a ∈ A`, `b ∈ B`. -/
+def convolution (A B : Finset G) : G → ℕ := fun x => #{ab ∈ A ×ˢ B | ab.1 * ab.2⁻¹ = x}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: What you have defined here is the *difference convolution*. The standard one would rather be
```suggestion
that maps `x ∈ G` to the number of distinct representations of `x` in the form `x = ab`, where
`a ∈ A`, `b ∈ B`. -/
def convolution (A B : Finset G) : G → ℕ := fun x => #{ab ∈ A ×ˢ B | ab.1 * ab.2 = x}
```
and you can obtain the difference convolution of `A` and `B` as the convolution of `A` and `B⁻¹`.

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 4]
```diff
@@ -0,0 +1,96 @@
...
+lemma convolution_eq_card_inter_smul (A B : Finset G) (x : G) :
+    A.convolution B x = #(A ∩ (x • B)) := Eq.symm <| card_inter_smul ..
+
+lemma convolution_eq_card_inv_smul_inter (A B : Finset G) (x : G) :
+    A.convolution B x = #((x⁻¹ • A) ∩ B) := Eq.symm <| card_inv_smul_inter ..
+
+lemma convolution_nonneg (A B : Finset G) (x : G) : 0 ≤ A.convolution B x := zero_le _
+
+lemma convolution_pos_of_mem (hx : x ∈ A * B⁻¹) :
+    0 < A.convolution B x := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]:
```suggestion
lemma convolution_pos : 0 < A.convolution B x ↔ x ∈ A * B⁻¹ := by
```

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 5]
```diff
@@ -0,0 +1,96 @@
...
+lemma convolution_eq_card_smul_inter_smul (A B : Finset G) (x y : G) :
+    A.convolution B (x⁻¹ * y) = #((x • A) ∩ (y • B)) := Eq.symm <| card_smul_inter_smul ..
+
+lemma convolution_eq_card_inter_smul (A B : Finset G) (x : G) :
+    A.convolution B x = #(A ∩ (x • B)) := Eq.symm <| card_inter_smul ..
+
+lemma convolution_eq_card_inv_smul_inter (A B : Finset G) (x : G) :
+    A.convolution B x = #((x⁻¹ • A) ∩ B) := Eq.symm <| card_inv_smul_inter ..
+
+lemma convolution_nonneg (A B : Finset G) (x : G) : 0 ≤ A.convolution B x := zero_le _
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: This lemma is useless

**Review by YaelDillies — COMMENTED** [review]
Can you additivise everything?

**Comment by strihanje01** [comment]
-awaiting-author

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 6]
```diff
@@ -0,0 +1,95 @@
...
+@[to_additive (attr := simp)]
+lemma card_inter_smul (A B : Finset G) (x : G) : #(A ∩ (x • B)) = A.convolution B⁻¹ x := by
+  simpa using card_smul_inter_smul _ _ 1 x
+
+@[to_additive (attr := simp)]
+lemma card_smul_inter (A B : Finset G) (x : G) : #((x • A) ∩ B) = A.convolution B⁻¹ x⁻¹ := by
+  simpa using card_smul_inter_smul _ _ x 1
+
+@[to_additive addConvolution_pos]
+lemma convolution_pos : 0 < A.convolution B x ↔ x ∈ A * B := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: simp? and can we also have the `_ne_zero` (not simp) and `_eq_zero` (simp) versions?

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 7]
```diff
@@ -0,0 +1,95 @@
...
+  constructor
+  · intro (hx : 0 < #{ab ∈ _ | _})
+    obtain ⟨ab, hab⟩ := card_pos.mp hx
+    obtain ⟨⟨ha, hb⟩, hab⟩ := by simpa only [mem_filter, mem_product] using hab
+    simpa only [← hab] using mul_mem_mul ha hb
+  · intro hx
+    obtain ⟨a, ha, b, hb, h⟩ := mem_mul.mp hx
+    exact card_pos.mpr ⟨(a, b), by simp [ha, hb, h, mem_filter, mem_product]⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: Here's a more concise proof
```suggestion
  aesop (add simp [convolution, Finset.Nonempty, mem_mul])
```
We could remove the `Finset.Nonempty` above if [`Finset.filter_nonempty_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Filter.html#Finset.filter_nonempty_iff) were made simp. I wonder if we shouldn't do that 🤔

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 8]
```diff
@@ -0,0 +1,95 @@
...
+
+@[to_additive addConvolution_le_card_left]
+lemma convolution_le_card_left (A B : Finset G) (x : G) : A.convolution B x ≤ #A := by
+  rw [← inv_inv B, ← card_inter_smul]
+  exact card_le_card inter_subset_left
+
+@[to_additive addConvolution_le_card_right]
+lemma convolution_le_card_right (A B : Finset G) (x : G) : A.convolution B x ≤ #B := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: I would make all arguments implicit in these two, since they can't be used for rewriting
```suggestion
lemma convolution_le_card_left : A.convolution B x ≤ #A := by
  rw [← inv_inv B, ← card_inter_smul]
  exact card_le_card inter_subset_left

@[to_additive addConvolution_le_card_right]
lemma convolution_le_card_right : A.convolution B x ≤ #B := by
```

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 9]
```diff
@@ -0,0 +1,95 @@
...
+  exact card_le_card inter_subset_right
+
+@[to_additive (attr := simp) addConvolution_neg]
+lemma convolution_inv (A B : Finset G) (x : G) : B⁻¹.convolution A⁻¹ x = A.convolution B x⁻¹ := by
+  nth_rw 2 [← inv_inv B]
+  rw [← card_smul_inter, ← card_inter_smul, inter_comm]
+
+@[to_additive (attr := simp) op_vadd_addConvolution_eq_addConvolution_vadd]
+lemma op_smul_convolution_eq_convolution_smul (A B : Finset G) (s : G) :
+    (A <• s).convolution B = A.convolution (s • B) := funext <| fun x => by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]:
```suggestion
    (A <• s).convolution B = A.convolution (s • B) := funext fun x => by
```

File: Mathlib/Combinatorics/Additive/Convolution.lean [hunk 10]
```diff
@@ -0,0 +1,95 @@
...
+  rw [← inv_inv B, ← card_inter_smul]
+  exact card_le_card inter_subset_left
+
+@[to_additive addConvolution_le_card_right]
+lemma convolution_le_card_right (A B : Finset G) (x : G) : A.convolution B x ≤ #B := by
+  rw [← inv_inv B, ← inv_inv x, ← card_smul_inter, card_inv]
+  exact card_le_card inter_subset_right
+
+@[to_additive (attr := simp) addConvolution_neg]
+lemma convolution_inv (A B : Finset G) (x : G) : B⁻¹.convolution A⁻¹ x = A.convolution B x⁻¹ := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Additive/Convolution.lean]: In my mind, this was a simp lemma the other way around, as then we would get `A.convolution A x⁻¹ = A.convolution A⁻¹ x` for free

**Comment by strihanje01** [comment]
-awaiting-author

**Review by YaelDillies — APPROVED** [review]
Thanks! Could @**Bhavik Mehta** have a look?

maintainer merge

File: Mathlib/Combinatorics/Additive/Convolution.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/Additive/Convolution.lean]: Let's also add the lemma that the division can be written as a convolution

File: Mathlib/Combinatorics/Additive/Convolution.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/Additive/Convolution.lean]: Are you sure this is a good idea? I think it's fairly confusing for convolution to appear from just this particular LHS, especially since this convolution notion and name doesn't appear in the literature. I think we should unsimp things which introduce a convolution.

**Comment by b-mehta** [comment]
Looks good to me, except for the changes to the simp set.

**Comment by strihanje01** [comment]
-awaiting-author

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
